* Auto-generated SPICE netlist (NO TEXT OCR USED)

C1 n1 0 1u
* SAME_NODE_SKIPPED Inductor both_on=0
E1 0 0 n1 n2 100k
* SAME_NODE_SKIPPED Diode both_on=0

.op
.end
